US07935716B2
212 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate and 105 mg of 2-amino-5-methylthiazole were added to 2.5 ml of bromobenzene, then, the mixture was stirred for 5.5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature. The resulting solid was collected by filtration, and washed with a mixed solvent of t-butyl methyl ether and hexane and dried to obtain 188 mg of 1,6-dimethyl-4-hydroxy-N-(5-methylthiazol-2-yl)-2-oxo-1,2-d ihydropyridine-3-carboxamide (hereinafter, referred to as present compound 20) represented by the formula:

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 212 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 2-amino-5-methylthiazole | 105 mg | NC=1SC(=CN1)C | C4H6N2S
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
product | 1,6-dimethyl-4-hydroxy-N-(5-methylthiazol-2-yl)-2-oxo-1,2-d ihydropyridine-3-carboxamide | 188 mg | CN1C(C(=C(C=C1C)O)C(=O)NC=1SC(=CN1)C)=O | C12H13N3O3S
